US07407980B2
To a stirring mixture of fuming nitric acid (18.7 mL, 0.40 mol) and concentrated sulfuric acid (2.53 mL, 47.5 mmol) at −50° C. was added 3-hydroxy-o-toluic acid (5.0 g, 32.9 mmol) drop-wise maintaining the reaction temperature at −50° C. After five minutes, the reaction mixture was poured into crushed ice (200 gram) and was extracted with ethyl acetate (400 mL). The ethyl acetate layer was washed with water, dried (anhydrous magnesium sulfate), filtered and concentrated to give a crude product which was a 1:1 mixture of the desired mononitrated product and the undesired bisnitrated product. The crude mixture was re-dissolved in acetone (170 mL). To the resulting solution was added potassium carbonate (20.9 g, 151.0 mmole) and dimethyl sulfate (10.7 mL, 113.2 mmole). The reaction mixture was refluxed for one hour and concentrated. The resulting orange residue was washed with water and air dried and subjected to flash chromatography over silica gel eluting with 10% ethyl acetate/hexane. Product fractions were concentrated under reduced pressure to give 3-methoxy-2-methyl-4-nitro-benzoic acid methyl ester as a solid (1.88 g, 25%). 1H NMR (CDCl3) δ: 2.55 (s, 3H), 3.91 (s, 3H), 3.94 (s, 3H), 7.61 (d, 1H, J=8.5 Hz), 7.68 (d, 1H, J=8.6 Hz).

reactant | nitric acid | 0.40 mol, 18.7 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 47.5 mmol, 2.53 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-o-toluic acid | 32.9 mmol, 5.0 g | OC1=C(C(=CC=C1)C)C(=O)O | C8H8O3
reactant | potassium carbonate | 151.0 mmole, 20.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 113.2 mmole, 10.7 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 170 mL | CC(=O)C | C3H6O
product | 3-methoxy-2-methyl-4-nitro-benzoic acid methyl ester | 1.88 g, 25% | COC(C1=C(C(=C(C=C1)[N+](=O)[O-])OC)C)=O | C10H11NO5
